US06762197B2
7.46 g (23.9 mmol) of 4-(5-bromo-2-methylbenzyl)-5-hydroxymethyl-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one and 15.8 g of active manganese dioxide were stirred for 3 hours in nitrogen atmosphere under reflux with heating in 71 ml of chloroform. The reaction solution was filtrated through celite, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography (eluant: hexane/ethyl acetate-1/2 (v/v)), to obtain 5.04 g (16.3 mmol) of 4-(5-bromo-2-methylbenzyl)-5-formyl-2-methyl-2,4-dihydro-3H-1,2, 4-triazol-3-one having a melting point of 107.5° C.

reactant | 4-(5-bromo-2-methylbenzyl)-5-hydroxymethyl-2-methyl-2,4-dihydro-3H-1,2,4-triazol-3-one | 23.9 mmol, 7.46 g | BrC=1C=CC(=C(CN2C(N(N=C2CO)C)=O)C1)C | C12H14BrN3O2
solvent | chloroform | 71 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 15.8 g | [O-2].[O-2].[Mn+4]
product | 4-(5-bromo-2-methylbenzyl)-5-formyl-2-methyl-2,4-dihydro-3H-1,2, 4-triazol-3-one | 16.3 mmol, 5.04 g | BrC=1C=CC(=C(CN2C(N(N=C2C=O)C)=O)C1)C | C12H12BrN3O2
